US05521179
2-[3-Benzyloxycarbonylamino-2-oxo-5-(4-hydroxybenzyl)-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl]acetamide.
2-[3-Benzyloxycarbonylamino-2-oxo-5-(4-pivaloyloxybenzyl)-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl]acetamide was dissolved in methanol and excess 2N sodium hydroxide was added. The mixture was allowed to stir for 3 h, was evaporated, and partitioned between ethyl acetate and 1N hydrochloric acid. The organic layer was washed (brine), dried, evaporated and purified by chromatography, using dichloromethane:methanol (gradient, 99:1, 95:5) as the eluent, to give the title compound; NMR: 0.78-0.91 (m,6), 2.20 (m,1), 4.09 (m, NHCH hydrate), 4.50-4.77 (m,3, CH2CO, NHCH keto), 5.13 (s,2), 6.68 (d,2, J=8), 6.95 (m, OH hydrate), 6.96 (d,2, J=8), 7.20 (m,1) 7.29-7.42 (m,5), 7.70 (m,1), 7.73 (d, J=10), 8.33 (s, NH hydrate), 8.37 (S, NH keto), 8.93 (d, J=6.5, NH keto), 9.24 (s,1, OH).

reactant | 2-[3-Benzyloxycarbonylamino-2-oxo-5-(4-pivaloyloxybenzyl)-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl]acetamide | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C=C(C1)CC1=CC=C(C=C1)OC(C(C)(C)C)=O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C33H36F3N3O7
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-[3-Benzyloxycarbonylamino-2-oxo-5-(4-hydroxybenzyl)-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl]acetamide | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C=C(C1)CC1=CC=C(C=C1)O)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C28H28F3N3O6
